US07078414B2
8 mL (110 mmol) of sulphinyl chloride are added to 0.47 g (1.86 mmol) of 3-carboxy-4-methyl-1-(quinolin-5-yl)-1H-pyrrole dissolved in 25 mL of chloroform at a temperature in the region of 20° C. under an argon atmosphere. After stirring for 1.5 hours at the reflux temperature of the solvent, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is dissolved in 25 mL of chloroform and then concentrated to dryness again, giving 0.58 g (1.86 mmol) of 3-chlorocarbonyl-4-methyl-1-(quinolin-5-yl)-1H-pyrrole hydrochloride in the form of a beige-colored solid, which is used directly in the following step.

reactant | sulphinyl chloride | 110 mmol, 8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-carboxy-4-methyl-1-(quinolin-5-yl)-1H-pyrrole | 1.86 mmol, 0.47 g | C(=O)(O)C1=CN(C=C1C)C1=C2C=CC=NC2=CC=C1 | C15H12N2O2
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-chlorocarbonyl-4-methyl-1-(quinolin-5-yl)-1H-pyrrole hydrochloride | 1.86 mmol, 0.58 g | Cl.ClC(=O)C1=CN(C=C1C)C1=C2C=CC=NC2=CC=C1 | InChI=1S/C15H11ClN2O.ClH/c1-10-8-18(9-12(10)15(16)19)14-6-2-5-13-11(14)4-3-7-17-13;/h2-9H,1H3;1H
